US08835689B2
a) (4-butylidene-1-phenyl-cyclohexyl)-dimethylamine
Potassium tert-butylate (2.75 g, 23.7 mmol) was provided in abs. ether (50 mL) in argon and mixed with butyl-triphenyl phosphonium bromide (9.45 g, 23.7 mmol). The batch was heated for 30 min to 40° C. 4-dimethylamino-4-phenyl cyclohexanone (5.00 g, 23.0 mmol) dissolved in abs. THF (50 mL) was then added carefully in drops (exothermic reaction). The batch was heated for 6.5 h to 50° C. and stirred overnight at room temperature. The batch was then concentrated in a vacuum until dry, taken up in dioxan (20 mL) and mixed with HCl/dioxan (5 mL). A precipitate separated out during this. This was filtered off, washed with ether (10 mL), then basified with 2N NaOH and extracted with dichloromethane (2×40 mL). The organic phase was dried over Na2SO4, filtered and concentrated in a vacuum until dry.

reactant | ether | 50 mL | CCOCC | C4H10O
reactant | 4-dimethylamino-4-phenyl cyclohexanone | 23.0 mmol, 5.00 g | CN(C1(CCC(CC1)=O)C1=CC=CC=C1)C | C14H19NO
reactant | THF | 50 mL | C1CCOC1 | C4H8O
catalyst | butyl-triphenyl phosphonium bromide | 23.7 mmol, 9.45 g | [Br-].C(CCC)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
product | (4-butylidene-1-phenyl-cyclohexyl)-dimethylamine | C(CCC)=C1CCC(CC1)(C1=CC=CC=C1)N(C)C | C18H27N
